US09302988B2
Step 6: 3-(1-Benzyl-3-(4-chlorophenyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamido)-2,2-dimethylpropanoic acid (I-02)
A solution of LiOH H2O (214 mg, 5.11 mmol) in H2O (3 mL) was added to a stirred solution of methyl 3-(1-benzyl-3-(4-chlorophenyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamido)-2,2-dimethylpropanoate (259 mg, 0.511 mmol) in THF (3 mL). The reaction mixture was stirred at room temperature overnight. An extra portion of LiOH H2O (107 mg, 2.55 mmol) was added, followed by the addition of H2O (11 mL) and THF (11 mL). The reaction mixture was stirred at room temperature for 2 d and then acidified with aqueous 0.5 M KHSO4 (10 mL). The product was extracted with DCM (3×20 mL). The organic layers were combined and washed with brine (3×10 mL). The combined organic layers were dried on Na2SO4 and filtered. Solvents were removed in vacuo to give the desired product (233 mg, 93%) as a white foam.

reactant | LiOH H2O | 5.11 mmol, 214 mg | O[Li].O
reactant | methyl 3-(1-benzyl-3-(4-chlorophenyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamido)-2,2-dimethylpropanoate | 0.511 mmol, 259 mg | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C(=O)OC)(C)C | C26H26ClF3N2O3
reactant | LiOH H2O | 2.55 mmol, 107 mg | O[Li].O
reactant | KHSO4 | 0.5 M, 10 mL | OS(=O)(=O)[O-].[K+]
solvent | H2O | 3 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | H2O | 11 mL | O | H2O
product | 3-(1-Benzyl-3-(4-chlorophenyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamido)-2,2-dimethylpropanoic acid | 233 mg, 93% | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C(=O)O)(C)C | C25H24ClF3N2O3
